US09227971B2
Preparation of 1-(3-(7-Amino-6-bromo-3-(6-(3-(hydroxymethyl)-4-methoxyphenyl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octan-8-yl)-2-hydroxyethanone
Tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-(3-(hydroxymethyl)-4-methoxyphenyl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate (219 mg) was treated with 4N HCl in dioxane (4 mL) and water (1 mL) and the resulting mixture was stirred for 40 minutes, concentrated and lyophilized to provide the title compound.

reactant | Tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-(3-(hydroxymethyl)-4-methoxyphenyl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 219 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC(=C(C=C2)OC)CO)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C43H63BrN6O6Si2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 1-(3-(7-Amino-6-bromo-3-(6-(3-(hydroxymethyl)-4-methoxyphenyl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octan-8-yl)-2-hydroxyethanone | NC1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC(=C(C=C2)OC)CO)C2CC1CCC(C2)N1C(CO)=O)Br | C28H29BrN6O4
